US06492403B1
A solution of 7 g (30 mmol) of 4-bromo-5-ethylthiophene-2-carboxylic acid was dissolved in dry dichloromethane (200 mL) and treated with oxalyl chloride (3.2 mL, 36 mmol) and dimethylformamide (0.5 mL) for 18.5 h. The solvents were removed in vacuo and the residual brown oil was passed through silica gel (2 inches in a 350 mL scintered-glass Büchner funnel) and eluted with 700 mL of hexanes:ethyl acetate 9/1 (v:v). The elutate was concentrated in vacuo and the oil dissolved in dry dichloromethane (200 mL). This solution was treated with pyridine (12 mL, 150 mmol) and dry isopropanol (60 mL, 750 mmol) for 4 h at room temperature. The solvents were removed in vacuo and the residue partioned between dichloromethane (100 mL) and water (200 mL). The aqueous layers were extracted with dichloromethane (2×30 mL). The combined organic layers were extracted with sodium bicarbonate (2×30 mL), brine (30 mL), and dried over anhydrous sodium sulfate. The solvent was removed in vacuo. Purification by column chromatography on silica gel (250 g) eluting with hexanes:ethyl acetate 95/5 (v:v) gave isopropyl 2-ethyl-3-bromo-thiophene-5-carboxylate (4 g, 48%) as a yellow oil. 1H-NMR (DMSO-d6; 300 MHz) δ7.66 (s, 1H), 5.89 (septet, 1H, J=6.2 Hz), 2.80 (q, 2H, J=7.5 Hz), 1.29 (d, 6H, J=6.0 Hz), 1.24 (t, 3H, J=7.5 Hz).

reactant | 4-bromo-5-ethylthiophene-2-carboxylic acid | 30 mmol, 7 g | BrC=1C=C(SC1CC)C(=O)O | C7H7BrO2S
reactant | oxalyl chloride | 36 mmol, 3.2 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | pyridine | 150 mmol, 12 mL | N1=CC=CC=C1 | C5H5N
reactant | isopropanol | 750 mmol, 60 mL | C(C)(C)O | C3H8O
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
product | isopropyl 2-ethyl-3-bromo-thiophene-5-carboxylate | 4 g, 48% | C(C)C=1SC(=CC1Br)C(=O)OC(C)C | C10H13BrO2S
